US06069145
3-Fluoro-4-(4-{2-methoxyethyl}-3-oxopiperazin-1-yl)nitrobenzene (4 g) was dissolved in a mixture of ethyl acetate (200 ml) and DMF (5 ml), and the solution flushed with argon. Palladium (10% on carbon, 200 mg) was added, and the mixture hydrogenated under ambient pressure. After gas uptake had ceased, the mixture was filtered through celite and solvent was evaporated to give 5-amino-2-(4-{2-methoxyethyl}-3-oxopiperazin-1-yl)fluorobenzene which was used without further purification.

reactant | 3-Fluoro-4-(4-{2-methoxyethyl}-3-oxopiperazin-1-yl)nitrobenzene | 4 g | FC=1C=C(C=CC1N1CC(N(CC1)CCOC)=O)[N+](=O)[O-] | C13H16FN3O4
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 5-amino-2-(4-{2-methoxyethyl}-3-oxopiperazin-1-yl)fluorobenzene | NC=1C=CC(=C(C1)F)N1CC(N(CC1)CCOC)=O | C13H18FN3O2
